US09107916B2
B. tert-butyl 6-(hydroxymethyl)-1H-indazole-1-carboxylate
A solution of 1-tert-butyl 6-methyl 1H-indazole-1,6-dicarboxylate (766 mg, 2.76 mmol) in anhydrous THF (11 mL) was cooled to −30° C., LiAlH4 (210 mg, 5.53 mmol) was added in portions below −30° C., and the mixture was stirred at this temperature for 1.5 h, added water: 10% NaOH:water=0.8 mL:2.4 mL:0.8 mL carefully, filtered, and the filtrate was concentrated and purified by silica gel chromatograph to afford 100 mg of the title compound (14%). 1H NMR (400 MHz, CDCl3): δ 1.72 (9H, s), 4.86 (2H, s), 7.33 (1H, d, J=8.0 Hz), 7.69 (1H, d, J=8.4 Hz), 8.13 (1H, s), 8.21 (1H, s). [M+H] Calc'd for C13H16N2O3, 249. Found, 249.

reactant | 1-tert-butyl 6-methyl 1H-indazole-1,6-dicarboxylate | 2.76 mmol, 766 mg | N1(N=CC2=CC=C(C=C12)C(=O)OC)C(=O)OC(C)(C)C | C14H16N2O4
reactant | LiAlH4 | 5.53 mmol, 210 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-(hydroxymethyl)-1H-indazole-1-carboxylate | 100 mg, 14% | OCC1=CC=C2C=NN(C2=C1)C(=O)OC(C)(C)C | C13H16N2O3
